US07312236B2
2-Chloro-N-(6-(4-Dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-6-fluoro-benzamide di-hydrochloride salt, isomer 1
Using a method similar to example 1, using 2-chloro-6-fluoro-benzoyl chloride (116 mg, 0.60 mmol) and 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine, isomer 1 (preparation 10, 100 mg, 0.46 mmol) provides the free amine of the title compound as a colorless oil (78 mg, 45%): MS (ES): m/z=374.1 (M+H)+; 1H NMR (CDCl3): δ 9.03 (s, br, 1H), 8.26 (d, 1H), 7.73 (t, 1H), 7.30 (m, 1H), 7.19 (d, 1H), 7.09 (d, 1H), 6.98 (dt, 1H), 6.62 (m, 1H), 2.58 (m, 1H), 2.38 (m, 3H), 2.34 (s, 6H), 2.15 (m, 2H), 1.53 (m, 1H). Using a salt formation method similar to that in example 1 provides the di-hydrochloride salt.

reactant | 2-chloro-6-fluoro-benzoyl chloride | 0.60 mmol, 116 mg | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
reactant | 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine | CN(C1CC=C(CC1)C1=CC=CC(=N1)N)C | C13H19N3
product | 2-Chloro-N-(6-(4-Dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-6-fluoro-benzamide di-hydrochloride salt | 78 mg, 45% | Cl.Cl.ClC1=C(C(=O)NC2=NC(=CC=C2)C2=CCC(CC2)N(C)C)C(=CC=C1)F | InChI=1S/C20H21ClFN3O.2ClH/c1-25(2)14-11-9-13(10-12-14)17-7-4-8-18(23-17)24-20(26)19-15(21)5-3-6-16(19)22;;/h3-9,14H,10-12H2,1-2H3,(H,23,24,26);2*1H
